US08008295B2
Step B: 3-{[(2-Bromoethyl)(2-hydroxyethyl)amino]sulfonyl}-5-hydroxy-1H-indole-2-carboxamide
To a suspension of 5-methoxy-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxamide (416 mg, 1.23 mmol) in 15 mL of dichloromethane at −78° C. was added boron tribromide solution (1 M in dichloromethane, 6.13 mmol). After 10 minutes the mixture was allowed to warm to room temperature, and stir for an additional 60 hours. The reaction was poured into a mixture of EtOAc and saturated aqueous NaHCO3 solution. The organic phase was washed with water and brine, dried with Na2SO4, filtered, and concentrated in vacuo. Purification by flash chromatography through silica gel (3-10% MeOH/dichloromethane) provide the titled product, along with 5-hydroxy-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxamide. Proton NMR for the product was consistent with the titled compound. HRMS (ES) exact mass calculated for C13H17BrN3O5S (M+H+): 406.0067. Found 406.0081.

reactant | 5-methoxy-3-(morpholin-4-ylsulfonyl)-1H-indole-2-carboxamide | 1.23 mmol, 416 mg | COC=1C=C2C(=C(NC2=CC1)C(=O)N)S(=O)(=O)N1CCOCC1 | C14H17N3O5S
reactant | boron tribromide | 6.13 mmol, 1 M | B(Br)(Br)Br | BBr3
reactant | EtOAc | CCOC(=O)C | C4H8O2
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 3-{[(2-Bromoethyl)(2-hydroxyethyl)amino]sulfonyl}-5-hydroxy-1H-indole-2-carboxamide | BrCCN(S(=O)(=O)C1=C(NC2=CC=C(C=C12)O)C(=O)N)CCO | C13H16BrN3O5S
